US07863332B2
Synthesis of 3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]propanoic acid
A solution of 400 mg (0.98 mmol, 1 eq) of (E)-3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]acrylic acid (prepared in Example 27 g) in 10 mL of ethyl acetate in the presence of 0.2 ml of methanol is stirred for 4 hours at room temperature in the presence of 200 mg (50% by mass) of 10% palladium-on-charcoal under a hydrogen atmosphere. The reaction medium is filtered through Celite and then evaporated to dryness. After crystallization from ethyl ether/pentane, 265 mg of 3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]propanoic acid are obtained in the form of a white powder (m.p.=70° C.). Yield=66%

reactant | (E)-3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]acrylic acid | 0.98 mmol, 400 mg, 1 eq | C(C)N(C(=O)NCCCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)/C=C/C(=O)O | C25H32N2O3
reactant | methanol | 0.2 ml | CO | CH4O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 200 mg | [Pd] | Pd
product | 3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]propanoic acid | Yield=66% | C(C)N(C(=O)NCCCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)O | C25H34N2O3
